US05440044
A solution of 180 mg of 2-bromo-6-[(2RS)-2-hydroxy-2-(3-methoxycarbonylphenyl)-ethyl]-pyridine in 4 ml of toluene is mixed under argon atmosphere at -70° C. with 0.88 ml of diisobutylaluminum hydride (20% in toluene) and-stirred for 3 hours at this temperature. The reaction mixture is mixed in succession at -70° C. with 0.3 ml of isopropanol and 0.3 ml of water and stirred overnight at room temperature. The precipitate is filtered off, the filtrate is dried on sodium sulfate and concentrated by evaporation. The crude product is dissolved in 3 ml of methanol, mixed with 82 mg of sodium borohydride and stirred overnight at room temperature. The reaction mixture is acidified to pH 1 with 2 n hydrochloric acid, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/0-10% ethyl acetate. 103 mg of 2-bromo-6[(2RS)-2-hydroxy-2-(3-hydroxymethylphenyl)-ethyl]-pyridine is obtained as colorless oil.

reactant | 2-bromo-6-[(2RS)-2-hydroxy-2-(3-methoxycarbonylphenyl)-ethyl]-pyridine | 180 mg | BrC1=NC(=CC=C1)CC(C1=CC(=CC=C1)C(=O)OC)O | C15H14BrNO3
reactant | diisobutylaluminum hydride | 0.88 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | isopropanol | 0.3 ml | C(C)(C)O | C3H8O
reactant | water | 0.3 ml | O | H2O
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-6[(2RS)-2-hydroxy-2-(3-hydroxymethylphenyl)-ethyl]-pyridine | 103 mg | BrC1=NC(=CC=C1)CC(C1=CC(=CC=C1)CO)O | C14H14BrNO2
